US06306947B1
In the dropping tank of a reaction vessel (tank) equipped with a stirrer, a thermometer, a nitrogen-sealing tube, a condenser and a dropping tank were placed 30.0 parts of PA-1, 22.0 parts of methyl methacrylate (referred to hereinafter as MMA), 10.0 parts of n-butyl acrylate (referred to hereinafter as BA), 0.5 part of acrylic acid (referred to hereinafter as AA), 2.5 parts of diacetoneacrylamide (referred to hereinafter as DAAA), 1.0 part of 2,2′-azobis-2-isobutyronitrile (referred to hereinafter as AIBN), 25 parts of MEK and 25 parts of IPA, and then well mixed. Separately, in the reaction tank were placed 30.0 parts of PA-1, 22.0 parts of MMA, 10.0 parts of BA, 0.5 part of AA, 2.5 parts of DAAA, 10 parts of MEK and 10 parts of IPA, and then uniformly mixed. Subsequently, the reaction tank was heated to 75° C. and the liquid mixture in the dropping tank was dropped into the reaction tank over 5 hours. Thereafter, the resulting mixture was further subjected to reaction at the same temperature for 4 hours. Thereafter, 2.0 parts of triethylamine (referred to hereinafter as TEA) was added to the reaction mixture to sufficiently neutralize the same, after which aqueous hydrazide consisting of 149 parts of distilled water and 2.6 parts of adipic acid dihydrazide (referred to hereinafter as ADH) was added and the reaction mixture was emulsified. Thereafter, the MEK and the IPA present in the system were removed at 60° C. at 100 Torr to obtain an aqueous emulsion of a self-emulsifiable acryl-urethane copolymer having a solid content of 40.1% (the emulsion is referred to hereinafter as EA-1).

reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | n-butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | diacetoneacrylamide | CC(=O)CC(C)(C)NC(=O)C=C | C9H15NO2
reactant | adipic acid dihydrazide | C(CCCCC(=O)NN)(=O)NN | C6H14N4O2
solvent | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | IPA | CC(C)O | C3H8O
solvent | MEK | CCC(=O)C | C4H8O
product | acryl-urethane | C(=O)(C=C)NC(=O)OCC | C6H9NO3
